US06337336B1
5-(2-Chloroethoxy)-quinoline
A 100 ml three-neck oven dry flask was cooled under nitrogen. 5-Hydroxy quinoline (2 g, 14 mmol) was added as well as triphenylphosphine (5.42 g, 21 mmol) suspended in 50 ml anhydrous tetrahydrofuran. 2-Chloroethanol (1.3 ml, 21 mmol) was slowly added to above reaction mixture via syringe, followed by adding DEAD (2.98 ml, 21 mmol) via syringe. A second 1.5 eq of 2-chloroethanol, triphenylphosphine and DEAD was added. The reaction mixture was poured into 100 ml water and extracted by methylene chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated. Chromatographed (20% ethyl acetate-hexanes) afforded 2.31 g (82%) of product as a solid: mp 75-78° C.

reactant | 5-Hydroxy quinoline | 14 mmol, 2 g | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | triphenylphosphine | 21 mmol, 5.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-Chloroethanol | 21 mmol, 1.3 ml | ClCCO | C2H5ClO
reactant | DEAD | 21 mmol, 2.98 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-chloroethanol | 1.5 eq | ClCCO | C2H5ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 5-(2-Chloroethoxy)-quinoline | 2.31 g, 82% | ClCCOC1=C2C=CC=NC2=CC=C1 | C11H10ClNO
